datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"COc1ccc([N+](=O)[O-])c(C[NH2:10])c1.O=C(C1(O)c2ccccc2-c2ccccc21)[O:21][H:20]>>COc1ccc([N+](=O)[O-])c(C[NH2+:10][H:20])c1.O=C(C1(O)c2ccccc2-c2ccccc21)[O-:21] 10=20;20,21=21",
"CC[NH:10]CCN.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC[NH+:10](CCN)[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCOC(=O)Cc1nc2ccccc2[n-:10]1.CCOc1ccccc1C(=O)[O:21][H:20]>>CCOC(=O)Cc1nc2ccccc2[n:10]1[H:20].CCOc1ccccc1C(=O)[O-:21] 10=20;20,21=21",
"C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1.NCC[NH:10]Cc1ccccc1>>C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1.NCC[NH+:10](Cc1ccccc1)[H:20] 10=20;20,21=21",
"C[N+]1=CC=C([CH:21](S(=O)(=O)C2=CC=CC=C2)[H:20])C=C1.[S-]CC[NH:10]CCc1ccccc1>>C[N+]1=CC=C([CH-:21]S(=O)(=O)C2=CC=CC=C2)C=C1.[S-]CC[NH+:10](CCc1ccccc1)[H:20] 10=20;20,21=21",
"CC[NH+](CC)CCCC(C)Nc1cc[n+:21]([H:20])c2ccc(OC)cc12.Cc1cc(C)cc([O-:10])c1>>CC[NH+](CC)CCCC(C)Nc1cc[n:21]c2ccc(OC)cc12.Cc1cc(C)cc([O:10][H:20])c1 10=20;20,21=21",
"O[C@H]1CCC[C@H]1[NH2:10].[O-]c1[nH+]cnc2c1[nH]c[n+:21]2[H:20]>>O[C@H]1CCC[C@H]1[NH2+:10][H:20].[O-]c1[nH+]cnc2c1[nH]c[n:21]2 10=20;20,21=21",
"CN(C)C(=O)c1ncnc2nc[n:21]([H:20])c12.NC(=O)C[S-:10]>>CN(C)C(=O)c1ncnc2nc[n-:21]c12.NC(=O)C[S:10][H:20] 10=20;20,21=21",
"CCn1c[n+:21]([H:20])cn1.OCc1ccc(-c2c3[nH]c4ccccc4c3cc[n:10]2)o1>>CCn1c[n:21]cn1.OCc1ccc(-c2c3[nH]c4ccccc4c3cc[n+:10]2[H:20])o1 10=20;20,21=21",
"COc1ccccc1-c1nnn[n-:10]1.O=CN[O:21][H:20]>>COc1ccccc1-c1nnn[n:10]1[H:20].O=CN[O-:21] 10=20;20,21=21",
"COc1ncnc2nc[n:21]([H:20])c12.O=C(c1ccc(/C=C/[N+](=O)[O-])cc1)[O-:10]>>COc1ncnc2nc[n-:21]c12.O=C(c1ccc(/C=C/[N+](=O)[O-])cc1)[O:10][H:20] 10=20;20,21=21",
"CSc1cc[n+:21]([H:20])c2ccccc12.NC(=O)[C@@H]([C@H](O)C(=O)O)[NH2:10]>>CSc1cc[n:21]c2ccccc12.NC(=O)[C@@H]([C@H](O)C(=O)O)[NH2+:10][H:20] 10=20;20,21=21",
"CCCCC1(CC)C(=O)[N-]C(=S)[N:21]([H:20])C1=O.C[NH:10]CCCCc1ccccc1>>CCCCC1(CC)C(=O)[N-]C(=S)[N-:21]C1=O.C[NH+:10](CCCCc1ccccc1)[H:20] 10=20;20,21=21",
"C=C(CCCC)C(=O)[O:21][H:20].O=C(c1cc(Br)cs1)[O-:10]>>C=C(CCCC)C(=O)[O-:21].O=C(c1cc(Br)cs1)[O:10][H:20] 10=20;20,21=21",
"CN(C)c1ccc([N+](=O)[O-])c2c(NCCC[NH+](C)C)c3ccccc3[n+:21]([H:20])c12.C[NH+]1CCn2c([n:10]c3ccccc32)C1>>CN(C)c1ccc([N+](=O)[O-])c2c(NCCC[NH+](C)C)c3ccccc3[n:21]c12.C[NH+]1CCn2c([n+:10]([H:20])c3ccccc32)C1 10=20;20,21=21",
"C=C(C)[C@@H]1CN(C(C)=O)[C@H](C(=O)OC)[C@@H]1CC(=O)[O:21][H:20].Nc1ccc(S(=O)(=O)[N-:10]c2nccc(N)n2)cc1>>C=C(C)[C@@H]1CN(C(C)=O)[C@H](C(=O)OC)[C@@H]1CC(=O)[O-:21].Nc1ccc(S(=O)(=O)[N:10](c2nccc(N)n2)[H:20])cc1 10=20;20,21=21",
"Cc1cnc2c([O-:10])cccc2c1C.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Cc1cnc2c([O:10][H:20])cccc2c1C.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCCNC(=O)C(Cc1c[nH]c[nH+]1)NC(=O)c1cccc(C[NH+:21](CC[NH3+])[H:20])n1.N#CC1CC2CC[N:10]1CC2>>CCCNC(=O)C(Cc1c[nH]c[nH+]1)NC(=O)c1cccc(C[NH:21]CC[NH3+])n1.N#CC1CC2CC[N+:10]1([H:20])CC2 10=20;20,21=21",
"Nc1ccc2c(ccc[n:10]2)c1.S=C1Nc2cncnc2[N:21]1[H:20]>>Nc1ccc2c(ccc[n+:10]2[H:20])c1.S=C1Nc2cncnc2[N-:21]1 10=20;20,21=21",
"CCC[N:10](CC(C)O)CC(C)O.[NH3+]Cc1ccc[n+:21]([H:20])c1>>CCC[N+:10](CC(C)O)(CC(C)O)[H:20].[NH3+]Cc1ccc[n:21]c1 10=20;20,21=21",
"CC1CC(C(=O)[O:21][H:20])=[N+]([O-])C1(C)C.CC[N:10](CC)CCCC(C)Nc1ccnc2cc(Br)ccc12>>CC1CC(C(=O)[O-:21])=[N+]([O-])C1(C)C.CC[N+:10](CC)(CCCC(C)Nc1ccnc2cc(Br)ccc12)[H:20] 10=20;20,21=21",
"[O-]c1c2[nH]cnc2nc[n:10]1.[SH2+]c1ccc2c(ccc[n+:21]2[H:20])c1>>[O-]c1c2[nH]cnc2nc[n+:10]1[H:20].[SH2+]c1ccc2c(ccc[n:21]2)c1 10=20;20,21=21",
"CCCCCCC[N+:21](CCCCCCC)(c1ccccc1)[H:20].Cc1cc(-c2cc(C)[n:10][nH]2)[nH][nH+]1>>CCCCCCC[N:21](CCCCCCC)c1ccccc1.Cc1cc(-c2cc(C)[n+:10]([H:20])[nH]2)[nH][nH+]1 10=20;20,21=21",
"C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1.c1cc([C@@H]2CCCN2)nc([C@@H]2CCC[NH:10]2)c1>>C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1.c1cc([C@@H]2CCCN2)nc([C@@H]2CCC[NH+:10]2[H:20])c1 10=20;20,21=21",
"CCC(C)(C)[NH:10]C1CCCCC1.C[N+]1=CC=C([CH:21](S(=O)(=O)C2=CC=CC=C2)[H:20])C=C1>>CCC(C)(C)[NH+:10](C1CCCCC1)[H:20].C[N+]1=CC=C([CH-:21]S(=O)(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"CC(=O)Nc1nnc(S(=O)(=O)[NH-:10])s1.O=C1[C@H]2CCCC[C@H]2C(=O)[N:21]1[H:20]>>CC(=O)Nc1nnc(S(=O)(=O)[NH:10][H:20])s1.O=C1[C@H]2CCCC[C@H]2C(=O)[N-:21]1 10=20;20,21=21",
"Cc1ccc(CC[NH2+:21][H:20])cc1.O=C(Oc1ccc([N+](=O)[O-])cc1)[C@H]1CCCC[C@@H]1[NH2:10]>>Cc1ccc(CC[NH2:21])cc1.O=C(Oc1ccc([N+](=O)[O-])cc1)[C@H]1CCCC[C@@H]1[NH2+:10][H:20] 10=20;20,21=21",
"CC(=O)Nc1cccc2c1cc1ccccc1[n:10]2.O=C(C[C@]1(O)C[C@@H]2CC[C@H]1C2)[O:21][H:20]>>CC(=O)Nc1cccc2c1cc1ccccc1[n+:10]2[H:20].O=C(C[C@]1(O)C[C@@H]2CC[C@H]1C2)[O-:21] 10=20;20,21=21",
"CC(C)C1CC(CC(=O)[O-])[NH:10]C1C(=O)[O-].O=[N+]([O-])c1cccc([NH+:21](c2ccccc2)[H:20])c1>>CC(C)C1CC(CC(=O)[O-])[NH+:10]([H:20])C1C(=O)[O-].O=[N+]([O-])c1cccc([NH:21]c2ccccc2)c1 10=20;20,21=21",
"CC(C)NCC[NH:10]C(C)C.CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1>>CC(C)NCC[NH+:10](C(C)C)[H:20].CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1 10=20;20,21=21",
"C(\c1ccccc1)=[N:10]\c1ccccc1.[NH3+]C(CCC(=O)[O:21][H:20])C(=O)[O-]>>C(\c1ccccc1)=[N+:10](\c1ccccc1)[H:20].[NH3+]C(CCC(=O)[O-:21])C(=O)[O-] 10=20;20,21=21",
